* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
.param sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_noshield_o1phv__slope = 0.0
* statistics {
*   mismatch {
*     vary  sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_noshield_o1phv__slope dist=gauss std=0.00914
*   }
* }
.subckt  sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_noshield_o1phv c0 c1 b
+ 
.param  mult = 1.0
+ 
+ lvpp = 3.6 wm1 = 0.14 wm2 = 0.14 wli = 0.17
+ ctot_a = {0.988e-15*lvpp*lvpp*cvpp2_phv5x4_cor+1.04204/sqrt(mult/0.35036)*sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_noshield_o1phv__slope*0.988e-15*lvpp*lvpp*cvpp2_phv5x4_cor}
+ rat_m2 = 0.4325
+ rat_m1 = 0.3175
+ rat_li = 0.25
+ cap_m2 = {rat_m2*ctot_a}
+ cap_m1 = {rat_m1*ctot_a}
+ cap_li = {rat_li*ctot_a}
+ caps_li = {cvpp2_phv5x4_sub}
+ nvia = 11.0
+ ncon = 10.0
+ nf = 6.0
rm21 c0 a1 r = {2*rm2*lvpp/wm2*(1/3)*(1/nf)}
ccmvpp2_phv5x4 a1 c1  c = {cap_m2}
rvia1 c0 d0 r = {rcvia/nvia}
rvia2 c1 d1 r = {rcvia/nvia}
rm11 d0 b1 r = {2*rm1*lvpp/wm1*(1/3)*(1/nf)}
cm1 b1 d1 c = {cap_m1}
rcon1 d0 e0 r = {rcl1/ncon}
rcon2 d1 e1 r = {rcl1/ncon}
rli1 e0 f1 r = {2*rl1*lvpp/wli*(1/3)*(1/nf)}
cli f1 e1 c = {cap_li}
csli1 e0 b c = {caps_li}
csli2 e1 b c = {caps_li}
.ends sky130_fd_pr__cap_vpp_04p4x04p6_m1m2_noshield_o1phv
